US04000154
A degassed solution of 3.8 g (0.012 mole) of methyl cis-3-azido-1-(2,4-dimethoxybenzyl)-4-oxoazetidine-2-carboxylate was treated with potassium persulfate and sodium monohydrogen phosphate as described in Preparation 2 to give methyl cis-3-azido-4-oxoazetidine-2-carboxylate which was purified by chromatography on silica gel with benzene-ethyl acetate as eluant.

reactant | methyl cis-3-azido-1-(2,4-dimethoxybenzyl)-4-oxoazetidine-2-carboxylate | 0.012 mole, 3.8 g | N(=[N+]=[N-])[C@@H]1[C@@H](N(C1=O)CC1=C(C=C(C=C1)OC)OC)C(=O)OC | C14H16N4O5
reactant | potassium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | sodium monohydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
product | methyl cis-3-azido-4-oxoazetidine-2-carboxylate | N(=[N+]=[N-])[C@@H]1[C@@H](NC1=O)C(=O)OC | C5H6N4O3
